Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Codeine / Metronidazole
 
Attending: ___.
 
Chief Complaint:
Headache
 
Major Surgical or Invasive Procedure:
LP showing no evidence for subarachnoid bleed. 

 
History of Present Illness:
___ is a ___ right-handed woman with a history
of cervical spine disease, migraine, and depression who 
presented
to an outside hospital on ___ after falling from a step
stool while trying to retrieve some coffee filters at work in
___.  She does not report any premonitory symptoms
and next recalled lying on her back with people standing over
her.  She was taken to ___.  Head CT imaging there
was reportedly negative for any evidence of bleeding.  In the
outside hospital emergency room, she had an episode consisting 
of
eyes rolling back, with fluttering of her lids and stiffening of
the upper arms.  She was loaded with Dilantin, given 2 mg of
Ativan, and was subsequently transferred to ___ for
further evaluation.  According to EMTs, she reportedly had
multiple episodes of right-sided stiffening en route.  In the
emergency room here, she was apparently found to have some
movements of the legs that appeared involuntary without change 
in
mental status.  She was admitted to the medicine service for
evaluation after a repeat head CT was unremarkable.  Since
admission, she has had recurrent events, including spells 
similar
to those above and also similar episodes of shaking of all four
extremities with loss of consciousness.  The patient states that
she does not recall any of the episodes.  Later in the afternoon
yesterday, she was seen by the neurology consult team and was
quite tearful, complaining of nausea and vomiting.  She had
received a total of 20 mg of morphine and 4 mg of Ativan over
last 24 hours.

The neurology team was concerned for left-sided weakness and a
left Babinski.  An inter-ictal EEG was performed, which was
reportedly normal.  Given the history and examination findings,
an MRI and MRA of the head and MRA of the neck were ordered to
exclude vascular dissection in the neck.

 
Past Medical History:
PAST MEDICAL HISTORY:  Notable for chronic headaches, including
migraine headaches for which she takes a triptan and Fioricet. 
She has a history of occipital neuralgia after a neck injury in
___ with multiple cervical fractures.  She required multiple
surgeries, including the removal of a bony spur in ___ and a C7
discectomy and fusion in ___.  She has had hysterectomy and
endometriosis.  ___ disease in the right knee. 
Finally, the patient suffers from depression.

 
Social History:
___
Family History:
There is no family history of seizures reported.

 
Physical Exam:
NEUROLOGIC EXAMINATION:
MENTAL STATUS: She is fully oriented and attentive to the months
of the year backwards in approximately 20 seconds.  Speech is
fluent with intact comprehension, repetition, and naming.  There
is no dysarthria.  There is no evidence of apraxia or neglect. 
Registration and recall are ___.  The patient is aware of 
current
events and brings up the return of captives from ___ that
occurred last night.  Calculations are intact.
CRANIAL NERVES:  Pupils are equal, round, and reactive to light,
4 to 3 mm bilaterally.  The visual fields are full to
confrontation.  The extraocular movements are full without
evidence of nystagmus.  Facial sensation and movement are normal
throughout.  Hearing is intact to finger rub bilaterally.  
Palate
elevates symmetrically and the tongue protrudes in the midline.
MOTOR:  The patient has apparently normal bulk and tone, and no
adventitious movements were noted.  She has some mild breakable
weakness in the left deltoid and triceps but is full elsewhere.  

SENSATION: Intact to light touch, pinprick, and proprioception
throughout.  
REFLEXES: 2s throughout the upper extremities.  Left patella is
2, the right patellar jerk is difficult to elicit (history of
___ disease on the right).  The toes are downgoing
bilaterally.
COORDINATION:  Finger-nose-finger and heel-knee-shin are normal
bilaterally.
GAIT:  Her gait is narrow based and steady.  She is able to
tandem walk without difficulty.

 
Pertinent Results:
___ 11:15PM   GLUCOSE-112* UREA N-13 CREAT-0.7 SODIUM-144 
POTASSIUM-4.0 CHLORIDE-113* TOTAL CO2-21* ANION GAP-14
___ 11:15PM   estGFR-Using this
___ 11:15PM   WBC-11.0 RBC-3.01* HGB-10.6* HCT-32.1* 
MCV-107* MCH-35.2* MCHC-33.0 RDW-13.1
___ 11:15PM   NEUTS-79.5* LYMPHS-16.3* MONOS-3.2 EOS-0.6 
BASOS-0.4
___ 11:15PM   PLT COUNT-268
___ 11:15PM   ___ PTT-28.1 ___
___ 05:50AM BLOOD WBC-4.4 RBC-3.36* Hgb-12.0 Hct-34.2* 
MCV-102* MCH-35.7* MCHC-35.1* RDW-12.9 Plt ___
___ 05:00AM BLOOD WBC-4.3 RBC-2.95* Hgb-10.5* Hct-30.0* 
MCV-102* MCH-35.6* MCHC-35.0 RDW-15.9* Plt ___
___ 05:10AM BLOOD WBC-6.4 RBC-3.21* Hgb-11.0* Hct-34.5* 
MCV-108* MCH-34.3* MCHC-31.9 RDW-12.7 Plt ___
___ 05:50AM BLOOD Plt ___
___ 05:00AM BLOOD Plt ___
___ 05:10AM BLOOD Plt ___
___ 05:00AM BLOOD Glucose-83 UreaN-8 Creat-0.6 Na-140 K-3.9 
Cl-108 HCO3-19* AnGap-17
___ 05:10AM BLOOD Glucose-53* UreaN-11 Creat-0.6 Na-140 
K-4.0 Cl-109* HCO3-14* AnGap-21*
___ 05:00AM BLOOD Calcium-8.7 Phos-3.7 Mg-1.9
___ 05:10AM BLOOD Calcium-8.6 Phos-3.1 Mg-1.7
___ 05:10AM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___:    NO GROWTH.
___ 02:34PM BLOOD Type-ART pO2-191* pCO2-29* pH-7.48* 
calTCO2-22 Base XS-0
___ 02:34PM BLOOD Glucose-102 Lactate-1.7 Na-138 K-3.3* 
Cl-109
___ 02:34PM BLOOD freeCa-1.12
___ 12:13PM URINE Color-Yellow Appear-Clear Sp ___
___ 12:13PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-50 Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-TR
___ 12:13PM URINE ___ Bacteri-FEW Yeast-NONE 
___ 05:25PM CEREBROSPINAL FLUID (CSF) WBC-1 RBC-0 Polys-50 
___ ___ 05:25PM CEREBROSPINAL FLUID (CSF) TotProt-30 Glucose-___ year-old right-handed woman with a history of frequent 
migraine headaches and remote cervical spine fracture, presented 
after a fall with recurrent paroxysmal events, severe neck pain, 
nausea and vomiting.

She was taken to ___, where her head laceration was 
sutured and she had two normal head CTs.  While there, she had 
an episode of upward eye deviation, with eyelid fluttering and 
unresponsiveness, with some stiffening of the arms.  She was 
given 2 mg intravenous Ativan and transferred here.

While in the ED and on the Medicine floor she had similar events 
that she didn’t remember. She also had episodes of abnormal leg 
movements without confusion or loss of awareness; and also 
episodes of shaking of all four extremities with decreased 
responsiveness. EEG showed no focal slowing or epileptiform 
discharges. We transferred her to the Epilepsy service for 
video-EEG monitoring to rule out nonepileptic psychogenic 
events. She did not have any of her events on continuous EEG 
monitoring.  Video EEG showed no focal slowing or epileptiform 
discharges.

On the medicine service she had received about 20 mg of morphine 
and
4 mg of Ativan.  Some of her symptoms were thought to be related 
to drug seeking behavior. She also developed slightly clumsy 
rapid alternating movements on the left with a left upgoing toe. 
If the episodes were seizures, some of her left-sided symptoms 
could be a postictal phenomenon. Exam returned to normal. She 
also had increased neck pain raising concern for vertebral 
dissection with possible posterior fossa ischemia. MRI/MRA was 
completed and did not show dissection. 
 
Her headache persisted and it was not exactly like her typical 
migraines, but did have some throbbing component, as well as 
nausea when she gets up and walks around.  Thus an LP was done 
to rule out subarachnoid hemorrhage and it was also negative.  

She was seen by the Pain Management team for control of 
headaches. It was discovered that she has been seen regularly at 
___ in ___ and reportedly treated 
with cervical facet blocks, trigger point injections (TPIs), 
cervical epidural steroid injections, and greater occipital 
nerve blocks (GONBs). It seems at home, she takes Fioricet 
(3/week), Zomig (6/month) and Vicodin (6/day).
RECOMMENDATIONS were to increase Increase Topamax to 50mg po 
BID, discontinue Flexeril, start Tizanidine 4mg po TID, Lidoderm 
patches to bilateral trapezius and posterior neck, and to 
discontinue PRN IV Dilaudid. They also recommended keeping 
Vicodin PRN, as patient is opioid dependent with hx of taking 
six per day at home. They also recommend Physical Therapy with 
TENS treatment.

We discontinued her IV opiates, started topamax, tizanidine, 
lidoderm patches, and PRN fioricet and vicodin. Her headaches 
improved to a ___ on this regimen prior to discharge. 

She was instructed to follow up with PMD and pain clinic.

 
Medications on Admission:
Medications include Seroquel 300 mg nightly,
estradiol 0.2 mg daily, Fioricet as needed, takes it roughly
approximately three times a week, and Zomig as needed, takes
approximately six times monthly.  Her internist prescribes
vicodin that she takes every four hours.

 
Discharge Medications:
1. Quetiapine 300 mg Tablet Sustained Release 24 hr Sig: One (1) 
Tablet Sustained Release 24 hr PO QHS (once a day (at bedtime)).
Disp:*24 Tablet Sustained Release 24 hr(s)* Refills:*2*
2. Estradiol 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Tizanidine 2 mg Tablet Sig: Two (2) Tablet PO TID (3 times a 
day).
Disp:*42 Tablet(s)* Refills:*2*
4. Topiramate 25 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*50 Tablet(s)* Refills:*2*
5. Hydrocodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
6. Butalbital-Acetaminophen-Caff 50-325-40 mg Tablet Sig: One 
(1) Tablet PO Q8H (every 8 hours) as needed for headache.
Disp:*24 Tablet(s)* Refills:*0*
7. Outpatient Physical Therapy
TENS unit for neck pain

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Headache
s/p fall
Paroxysmal Events

 
Discharge Condition:
Stable, Neurologic exam normal. 

 
Discharge Instructions:
You were admitted to the hospital after your fall because of 
headaches, neck pain, and episodes concerning for seizures. Your 
pain was controlled with IV and PO medications. You are now 
taking your home regimen which was composed of Vicoden and 
Fiorocet. You were started on Topamax to help with the 
headaches. You had Long term EEG monitoring to check for 
seizures. You didn't have any event on the monitor. You were 
seen by the pain team that recommended discontinuing Flexeril. 
You were started on Tizanidine. They also recommended TENS unit 
with outpatient ___.
 
Followup Instructions:
___